US06451821B1
11.2 cm3 of triethylamine are added with stirring to a solution of 7.91 g of (2RS)-2-amino-3-(2-pyrazinyl)-1-propanol dihydrochloride in 80 cm3 of ethanol, followed by addition of 7.2 cm3 of tert-butyl isothiocyanate. The mixture is heated at a temperature in the region of 50° C. for 18 hours. After cooling, the reaction medium is concentrated under reduced pressure (1 kPa) at a temperature in the region of 40° C., taken up in 100 cm3 of water and extracted with dichloromethane. The organic phases are combined, washed with 50 cm3 of water, dried over magnesium sulphate, filtered and then concentrated under reduced pressure (1 kPa) at a temperature in the region of 40° C. 7.2 g of N-(tert-butyl)-N′-[(1RS)-1-hydroxymethyl-2-(2-pyrazinyl)-ethyl]thiourea are obtained in the form of a colourless paste [mass spectrum: DCI m/z=269 MH+]

reactant | triethylamine | 11.2 cm3 | C(C)N(CC)CC | C6H15N
reactant | (2RS)-2-amino-3-(2-pyrazinyl)-1-propanol dihydrochloride | 7.91 g | Cl.Cl.NC(CO)CC1=NC=CN=C1
reactant | tert-butyl isothiocyanate | 7.2 cm3 | C(C)(C)(C)N=C=S | C5H9NS
solvent | ethanol | 80 cm3 | C(C)O | C2H6O
product | N-(tert-butyl)-N′-[(1RS)-1-hydroxymethyl-2-(2-pyrazinyl)-ethyl]thiourea | 7.2 g | C(C)(C)(C)NC(=S)NC(CC1=NC=CN=C1)CO | C12H20N4OS
